US07790724B2
a) (4-Amino-3-bromo-phenyl)-acetonitrile
A solution of 4-aminophenylacetonitrile (1.45 g, 10.9 mmol) in acetonitrile (10 mL) at 0° C. was treated with NBS (1.95 g, 10.9 mmol) in acetonitrile (10 mL) dropwise via an addition funnel. The reaction was allowed to warm to room temperature and then concentrated in vacuo. The crude product was dissolved in EtOAc (50 mL), washed with saturated aqueous NaHCO3 (2×50 mL) and dried (Na2SO4). Removal of the solvent in vacuo afforded the title compound (2.12 g, 92%) as a reddish solid. Mass spectrum (ESI, m/z): Calcd. for C8H7BrN2, 210.9 (M+H), found 211.0.

reactant | 4-aminophenylacetonitrile | 10.9 mmol, 1.45 g | NC1=CC=C(C=C1)CC#N | C8H8N2
reactant | NBS | 10.9 mmol, 1.95 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (4-Amino-3-bromo-phenyl)-acetonitrile | 2.12 g, 92% | NC1=C(C=C(C=C1)CC#N)Br | C8H7BrN2
